US07378419B2
3-Bromo-1-methyl-1H-pyrrole-2,5-dione
A 15 mmol solution of 3-bromo-2,5-furanedione and 15 mmol of methylamine at 40% in water, in 300 ml of glacial acetic acid is carried under reflux for 16 hours. After having allowed the reaction mixture to return to ambient temperature, 20 ml of acetic anhydride are added. The reaction medium is again brought to reflux under stirring for 4 hours before evaporating the solvents under reduced pressure. The expected product is obtained after purification by silica gel chromatography (heptane/ethyl acetate: 1/1) and recrystallization in ethanol.

reactant | 3-bromo-2,5-furanedione | BrC=1C(OC(C1)=O)=O | C4HBrO3
reactant | methylamine | 15 mmol | CN | CH5N
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-1-methyl-1H-pyrrole-2,5-dione | BrC=1C(N(C(C1)=O)C)=O | C5H4BrNO2
